US05294612
1-Cyclopentyl-3-ethyl-6-(3-methyl-2-pyridyl)pyrazolo[3,4-d]pyrimidin-4-one
It is contemplated that following the procedures of Example 2 but starting with 2-quinoxalinecarboxaldehyde, 2-pyrrolecarboxaldehyde, or 3-indolecarboxaldehyde in place of 6-methyl-2-pyridinecarboxaldehyde there can be prepared 1-cyclopentyl-3-ethyl-6-(2-quinoxalyl)-pyrazolo[3,4-d]pyrimidin-4-one, 1-cyclopentyl-3-ethyl-6-(2-pyrrolyl)pyrazolo[3,4-d]-pyrimidin-4-one, and 1-cyclopentyl-3-ethyl-6-(3-indolyl)pyrazolo[3,4-d]pyrimidin-4-one.

reactant | 2-quinoxalinecarboxaldehyde | N1=C(C=NC2=CC=CC=C12)C=O | C9H6N2O
reactant | 2-pyrrolecarboxaldehyde | N1C(=CC=C1)C=O | C5H5NO
reactant | 3-indolecarboxaldehyde | N1C=C(C2=CC=CC=C12)C=O | C9H7NO
reactant | 1-cyclopentyl-3-ethyl-6-(2-quinoxalyl)-pyrazolo[3,4-d]pyrimidin-4-one | C1(CCCC1)N1NC(=C2C1=NC(=NC2=O)C2=NC1=CC=CC=C1N=C2)CC | C20H20N6O
reactant | 1-cyclopentyl-3-ethyl-6-(2-pyrrolyl)pyrazolo[3,4-d]-pyrimidin-4-one | C1(CCCC1)N1NC(=C2C1=NC(=NC2=O)C=2NC=CC2)CC | C16H19N5O
reactant | 1-cyclopentyl-3-ethyl-6-(3-indolyl)pyrazolo[3,4-d]pyrimidin-4-one | C1(CCCC1)N1NC(=C2C1=NC(=NC2=O)C2=CNC1=CC=CC=C21)CC | C20H21N5O
product | 1-Cyclopentyl-3-ethyl-6-(3-methyl-2-pyridyl)pyrazolo[3,4-d]pyrimidin-4-one | C1(CCCC1)N1NC(=C2C1=NC(=NC2=O)C2=NC=CC=C2C)CC | C18H21N5O
